US05864039
3-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)propylamine (1.08 g) as starting compound was reacted and treated in the same manner as in Example 1 using 4-methylbenzoyl chloride (0.56 ml) and 4-amino-5-chloro-2-methoxybenzoic acid (0.48 g) to give 4-amino-5-chloro-2-methoxy-N-(1-(3-(4-methylbenzoylamino)propyl)pyrrolidin-3-ylmethyl)benzamide.

reactant | 3-(3-tert-Butoxycarbonylaminomethylpyrrolidin-1-yl)propylamine | 1.08 g | C(C)(C)(C)OC(=O)NCC1CN(CC1)CCCN | C13H27N3O2
reactant | 4-methylbenzoyl chloride | 0.56 ml | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | 4-amino-5-chloro-2-methoxybenzoic acid | 0.48 g | NC1=CC(=C(C(=O)O)C=C1Cl)OC | C8H8ClNO3
product | 4-amino-5-chloro-2-methoxy-N-(1-(3-(4-methylbenzoylamino)propyl)pyrrolidin-3-ylmethyl)benzamide | NC1=CC(=C(C(=O)NCC2CN(CC2)CCCNC(C2=CC=C(C=C2)C)=O)C=C1Cl)OC | C24H31ClN4O3
